US03998834
A mixture of 10 parts of 2-bromopropane, 9 parts of 4-(methoxymethyl)-N-phenyl-4-piperidinamine, 4.9 parts of N,N-diethylethanamine and 72 parts of N,N-dimethylacetamide is stirred and refluxed for 10.25 hours. After cooling, the formed N,N-diethylethanamine hydrobromide is filtered off and the filtrate is diluted with water. The product is extracted with methylbenzene. The extract is washed thoroughly with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 5.7 parts (42.6%) of 4-(methoxymethyl)-1-(1-methylethyl)-N-phenyl-4-piperidinamine as an oily residue.

reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | 4-(methoxymethyl)-N-phenyl-4-piperidinamine | COCC1(CCNCC1)NC1=CC=CC=C1 | C13H20N2O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(methoxymethyl)-1-(1-methylethyl)-N-phenyl-4-piperidinamine | 42.6% | COCC1(CCN(CC1)C(C)C)NC1=CC=CC=C1 | C16H26N2O
